US08629133B2
1,5-Anhydro-2-azido-6-O-[tert-butyl(dimethyl)silyl]-2,3-dideoxy-D-ribo-hexitol
A dichloromethane (4 ml) solution of tert-butyldimethylchlorosilane (381 mg, 2.54 mmol) was added to a dichloromethane (10 ml) solution of 1,5-anhydro-2-azido-2,3-dideoxy-D-ribo-hexitol (440 mg, 2.54 mmol) and triethylamine (0.46 ml, 3.30 mmol) under ice cooling. After stirring at room temperature for 50 hours, the reaction mixture was diluted with chloroform and the organic layer was washed with water and brine. The organic layer was dried over anhydrous sodium sulfate, then the solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography [n-hexane:ethyl acetate=10:1→4:1 (v/v)] to give 650 mg (89%) of the title compound as a colorless oil.

reactant | dichloromethane | 4 ml | ClCCl | CH2Cl2
reactant | tert-butyldimethylchlorosilane | 2.54 mmol, 381 mg | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | 1,5-anhydro-2-azido-2,3-dideoxy-D-ribo-hexitol | 2.54 mmol, 440 mg | N(=[N+]=[N-])[C@H]1CO[C@@H]([C@H](C1)O)CO | C6H11N3O3
reactant | triethylamine | 3.30 mmol, 0.46 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1,5-Anhydro-2-azido-6-O-[tert-butyl(dimethyl)silyl]-2,3-dideoxy-D-ribo-hexitol | 650 mg, 89% | N(=[N+]=[N-])[C@H]1CO[C@@H]([C@H](C1)O)CO[Si](C)(C)C(C)(C)C | C12H25N3O3Si
